US06388084B1
To a suspension of zinc dust (0.66 g, 10 mmol) in THF (1.0 mL) was added 1,2-dibromoethane (86 μL, 1 mmol)) at room temperature. This suspension was heated to 60-65° C. with a heat gun until evolution of ethylene gas ceased. Then, the suspension was cooled to room temperature and trimethylchlorosilane (0.126 mL, 1 mmol)) was added and the mixture was stirred for 15 min. A mixture of 1,4-dimethyl-3-iodo-2(1H)-pyridone and 1,4-dimethyl-5-iodo-2(1H)-pyridone (0.92 g, 3.69 mmol) in DMA (3 mL) was warmed to effect dissolution and was added in one portion to the reaction mixture. After addition, the mixture was heated to 70° C. and was stirred for 15 h, at which time the TLC analysis of an aliquot, which had been quenched with saturated ammonium chloride solution, indicated the absence of starting material. The reaction mixture was diluted with THF (4 mL) and was cooled to room temperature. The excess zinc dust was allowed to settle until a clear supernatant liquid formed (˜3 h). The above prepared solution containing the zinc compound (3.69 mmol) was added to a solution of Pd(dba)2 (54 mg, 0.1 mmol), trifurylphosphine (102 mg, 0.4 mmol) and N-[(1,1-dimethylethoxy)carbonyl]-4-iodo-L-phenylalanine methyl ester (1.01 g, 2.5 mmol) in THF (4 mL) at room temperature and the light yellow mixture was stirred for 15 h at 50° C. Then, the mixture was poured into a saturated ammonium chloride solution and was extracted with ethyl acetate (3×50 mL). The combined extracts were washed with brine solution (150 mL) and were dried over anhydrous magnesium sulfate. Filtration of the drying agent and concentration gave the crude product which was purified by silica gel chromatography on a Biotage (40 m) column to obtain 0.141 g (14% yield) of N-[(1,1-dimethylethoxyl)carbonyl]-4-(1,4-dimethyl-2-oxo-3-pyridinyl)-L-phenylalanine methyl ester as an amorphous white solid. ES-HRMS m/e calcd for C22H28N2O5 (M+Na) 423.1890, found 423.1894 and 0.350 g (35% yield) of N-[(1,1-dimethylethoxyl)carbonyl]-4-(1,4-dimethyl-2-oxo-5-pyridinyl)-L-phenylalanine methyl ester as an amorphous white solid. ES-HRMS m/e calcd for C22H28N2O5 (M+Na) 423.1890, found 423.1897

reactant | 1,2-dibromoethane | 1 mmol, 86 μL | BrCCBr | C2H4Br2
reactant | ethylene | C=C | C2H4
reactant | trimethylchlorosilane | 1 mmol, 0.126 mL | C[Si](Cl)(C)C | C3H9ClSi
reactant | 1,4-dimethyl-3-iodo-2(1H)-pyridone | CN1C(C(=C(C=C1)C)I)=O | C7H8INO
reactant | 1,4-dimethyl-5-iodo-2(1H)-pyridone | 3.69 mmol, 0.92 g | CN1C(C=C(C(=C1)I)C)=O | C7H8INO
reactant | trifurylphosphine | 0.4 mmol, 102 mg | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
reactant | N-[(1,1-dimethylethoxy)carbonyl]-4-iodo-L-phenylalanine methyl ester | 2.5 mmol, 1.01 g | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)I)=O | C15H20INO4
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
solvent | DMA | 3 mL | CC(=O)N(C)C | C4H9NO
solvent | THF | 4 mL | C1CCOC1 | C4H8O
catalyst | zinc | 10 mmol, 0.66 g | [Zn] | Zn
catalyst | zinc | 3.69 mmol | [Zn] | Zn
catalyst | Pd(dba)2 | 0.1 mmol, 54 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | N-[(1,1-dimethylethoxyl)carbonyl]-4-(1,4-dimethyl-2-oxo-3-pyridinyl)-L-phenylalanine methyl ester | 0.141 g, 14% yield | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)C=1C(N(C=CC1C)C)=O)=O | C22H28N2O5
